US04551448
(f) 2-Bromo-4-(2-bromo-1,1,2-trifluoroethoxy)-phenol
7.2 g of bromine in 30 ml of chloroform were added dropwise, at 25° C., to a solution of 12.2 g of 4-(2-bromo-1,1,2-trifluoroethoxy)-phenol in 100 ml of anhydrous chloroform, and the mixture was stirred for 12 hours at 25° C. The solvent was removed, and the residue was distilled at 100° C./0.4 mbar to give 15.5 g of pure product.

reactant | bromine | 7.2 g | BrBr | Br2
reactant | 4-(2-bromo-1,1,2-trifluoroethoxy)-phenol | 12.2 g | BrC(C(OC1=CC=C(C=C1)O)(F)F)F | C8H6BrF3O2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-4-(2-bromo-1,1,2-trifluoroethoxy)-phenol | 15.5 g | BrC1=C(C=CC(=C1)OC(C(F)Br)(F)F)O | C8H5Br2F3O2
